US07479502B2
Proceeding as in Reference 21, but substituting 3′-amino-5-formyl-6-methoxy-biphenyl-3-sulfonamide and acetyl chloride, gave N-acetyl-3′-amino-5-formyl-6-methoxy-biphenyl-3-sulfonamide.

reactant | 3′-amino-5-formyl-6-methoxy-biphenyl-3-sulfonamide | NC=1C=C(C=CC1)C1=CC(=CC(=C1OC)C=O)S(=O)(=O)N | C14H14N2O4S
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
product | N-acetyl-3′-amino-5-formyl-6-methoxy-biphenyl-3-sulfonamide | C(C)(=O)NS(=O)(=O)C=1C=C(C(=C(C1)C=O)OC)C1=CC(=CC=C1)N | C16H16N2O5S
